US03983253
Ethyl β-(p-methoxyphenyl)-α-methylpropionate is added to 56 g of polyphosphoric acid with stirring at 50°C. The mixture is then heated to 83°-90°C for 2 hours. The cooled reaction mixture is poured slowly into a mixture of water and crushed ice with stirring and extracted with 3 × 300 ml of ether. The etheral solution is washed with 10% sodium bicarbonate solution followed by cold water to neutral, then with saturated sodium chloride solution and dried over magnesium sulfate for 1.5 hours and filtered. The solvent is removed on an evaporator and the residue distilled to obtain 6-methoxy-2-methylindanone.

reactant | Ethyl β-(p-methoxyphenyl)-α-methylpropionate | COC1=CC=C(C=C1)CC(C(=O)OCC)C | C13H18O3
solvent | water | O | H2O
product | 6-methoxy-2-methylindanone | COC1=CC=C2CC(C(C2=C1)=O)C | C11H12O2
